US08193202B2
A. Preparation of 1-tert-butyl 4-ethyl 4-((2-methoxyethoxy)methyl)piperidine-1,4-dicarboxylate.
To a solution of 1-tert-butyl 4-ethyl piperidine-1,4-dicarboxylate (2.0 g, 7.8 mmol) in THF (70 mL) at −78° C. was added dropwise LDA over 8 minutes, maintaining the temperature below −75° C. The mixture was stirred at −78° C. for 1 hour. 1-Chloromethoxy-2-methoxy-ethane (0.97 g. 7.8 mmol) was added dropwise while maintaining the temperature below −75° C. The mixture was stirred at −78° C. for 3 hours, and then allowed to warm slowly to room temperature overnight. The mixture was quenched with sat. aq. NH4Cl and extracted 3 times with EtOAc. The organics were combined, washed with brine, dried over MgSO4, and concentrated. Silica gel chromatography (10-20% ethyl acetate:hexanes) gave the title compound in 67% yield. MS (ES+) [M+H]+=346.

reactant | 1-tert-butyl 4-ethyl piperidine-1,4-dicarboxylate | 7.8 mmol, 2.0 g | N1(CCC(CC1)C(=O)OCC)C(=O)OC(C)(C)C | C13H23NO4
reactant | LDA | [Li+].CC(C)[N-]C(C)C
reactant | 1-Chloromethoxy-2-methoxy-ethane | 7.8 mmol, 0.97 g | ClCOCCOC | C4H9ClO2
solvent | THF | 70 mL | C1CCOC1 | C4H8O
product | 1-tert-butyl 4-ethyl 4-((2-methoxyethoxy)methyl)piperidine-1,4-dicarboxylate | 67% yield | COCCOCC1(CCN(CC1)C(=O)OC(C)(C)C)C(=O)OCC | C17H31NO6
